US07452894B2
6-(2-Furyl)-9-(1-pyrrolidinylcarbonyl)-9H-purine-2-amine (Example 29)
A solution of pyrrolidine (50 mL, 0.6 mmol) in toluene (2 mL) was treated with a solution of phosgene in toluene (0.31 mL, 1.93-M, 0.6 mmol), heated at 80° C. for 30 mins, cooled and concentrated in vacuo. The residue was dissolved in THF (2 mL) and added to a solution of 6-(2-furyl)-1H-purine-2-amine (100 mg, 0.5 mmol) and Et3N (83 mL, 0.6 mmol) in DMP (0.5 mL), stirred at 60° C. for 16 h, poured into water and extracted with EtOAc. The combined organic phase was dried (MgSO4), concentrated in vacuo and the resulting solid triturated with EtOAc/heptane and filtered to give the title compound (92 mg, 62%) as a cream solid.

reactant | pyrrolidine | 0.6 mmol, 50 mL | N1CCCC1 | C4H9N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 6-(2-furyl)-1H-purine-2-amine | 0.5 mmol, 100 mg | O1C(=CC=C1)C1=C2N=CN=C2N=C(N1)N | C9H7N5O
reactant | Et3N | 0.6 mmol, 83 mL | CCN(CC)CC | C6H15N
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.6 mmol, 0.31 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 6-(2-Furyl)-9-(1-pyrrolidinylcarbonyl)-9H-purine-2-amine | 92 mg, 62% | O1C(=CC=C1)C1=C2N=CN(C2=NC(=N1)N)C(=O)N1CCCC1 | C14H14N6O2
